US07772226B2
(e) t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-methylsulfanylcarbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate
5 ml of a 2N aqueous solution of hydrochloric acid was added to a 30-ml ethanol solution of 0.55 g of t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-methyl sulfanylcarbonimidoyl-1H-imidazol-2-yl]piperazine-1-carboxylate, and the mixture was heated at 60° C. for 5 hours. After the reaction solution had been concentrated under reduced pressure, 25 ml of ethyl acetate and 1N sodium hydroxide solution were added thereto. The aqueous layer was extracted with 25 ml of ethyl acetate, and the organic layers were combined together. The mixture was washed with 10 ml of a saturated sodium chloride solution containing 1 ml of 1N sodium hydroxide solution, and dried over anhydrous magnesium sulfate. The solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in 10 ml of dichloromethane, and 0.10 ml of triethylamine and 0.256 g of di-t-butyl dicarbonate were added thereto. The mixture was stirred at room temperature for 15 hours, and then 25 ml of ethyl acetate was added thereto. The mixture was washed successively with 10 ml of 0.1N hydrochloric acid, 10 ml of a saturated sodium bicarbonate solution, and 10 ml of a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.15 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (4:1).

reactant | hydrochloric acid | Cl | ClH
reactant | t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-methyl sulfanylcarbonimidoyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.55 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C(=N)SC)N1CCN(CC1)C(=O)OC(C)(C)C | C21H31N5O4S
reactant | ethanol | 30-ml | C(C)O | C2H6O
product | t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-methylsulfanylcarbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.15 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C(=O)SC)N1CCN(CC1)C(=O)OC(C)(C)C | C21H30N4O5S
